US09233981B1
Step 1. Synthesis of N-[(4aR,8aS)-6-(4-cyanophenyl)-8a-(2,4-difluorophenyl)-4,4a,8,8a-tetrahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide (C25)
(4-Cyanophenyl)boronic acid (55 mg, 0.37 mmol, 2.0 equiv) was added to a solution of (4aR,8aS)-2-(benzoylamino)-8a-(2,4-difluorophenyl)-4,4a,8,8a-tetrahydropyrano[3,4-d][1,3]thiazin-6-yl trifluoromethanesulfonate (P4) (100 mg, 0.19 mmol, 1.0 equiv) in tetrahydrofuran (1.5 mL). An aqueous 2 M solution of cesium carbonate (0.47 mL, 0.935 mmol, 5.0 equiv) and dichlorobis(triphenylphosphine)palladium(II) (6.4 mg, 9 μmol, 0.05 equiv) were added. The reaction was de-gassed and stirred at 65° C. for 17 hours. The reaction mixture was partitioned between water (10 mL) and ethyl acetate (20 mL) and the organic layer separated. The extraction was repeated twice and the combined organics were washed with saturated aqueous sodium chloride solution (10 mL), dried over sodium sulfate, filtered and concentrated in vacuo. Chromatography on silica gel (Gradient: 0% to 50% ethyl acetate in heptane) afforded the product as a white solid. Yield: 64 mg, 70%. LCMS m/z 488.3 [M+H+].

reactant | (4-Cyanophenyl)boronic acid | 0.37 mmol, 55 mg, 2.0 equiv | C(#N)C1=CC=C(C=C1)B(O)O | C7H6BNO2
reactant | (4aR,8aS)-2-(benzoylamino)-8a-(2,4-difluorophenyl)-4,4a,8,8a-tetrahydropyrano[3,4-d][1,3]thiazin-6-yl trifluoromethanesulfonate | 0.19 mmol, 100 mg, 1.0 equiv | FC(S(=O)(=O)OC1=C[C@@H]2[C@@](N=C(SC2)NC(C2=CC=CC=C2)=O)(CO1)C1=C(C=C(C=C1)F)F)(F)F | C21H15F5N2O5S2
reactant | cesium carbonate | 0.935 mmol, 0.47 mL, 5.0 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | tetrahydrofuran | 1.5 mL | O1CCCC1 | C4H8O
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 9 μmol, 6.4 mg, 0.05 equiv | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-[(4aR,8aS)-6-(4-cyanophenyl)-8a-(2,4-difluorophenyl)-4,4a,8,8a-tetrahydropyrano[3,4-d][1,3]thiazin-2-yl]benzamide | C(#N)C1=CC=C(C=C1)C1=C[C@@H]2[C@@](N=C(SC2)NC(C2=CC=CC=C2)=O)(CO1)C1=C(C=C(C=C1)F)F | C27H19F2N3O2S
